US05244889
Ethyl 2,3-di-oxo-1-azacyclodecane-10-carboxylate (5.02 g, 20.81 mmol) is dissolved in ether (50 mL), and cooled to 0° C. Trimethylsilylmethylmagnesium chloride (42.0 mL of a 1.0M solution in ether, 42.0 mmol) is added dropwise, the reaction is stirred at 0° C. for 20 minutes, and then heated to reflux overnight. The reaction is quenched with saturated ammonium chloride, and extracted several times with ethyl acetate. The combined organic layers are dried (Na2SO4), and the solvent is evaporated. The product is purified by silica gel chromatography (10% ethyl acetate/hexane) to give separately the two diastereomers of ethyl 3-(trimethylsilylmethyl)-3-hydroxy-2-oxo-1-azacyclodecane-10-carboxylate; major isomer, m.p. 129°-130° C.; minor isomer, m.p. 175°-177° C.

reactant | Ethyl 2,3-di-oxo-1-azacyclodecane-10-carboxylate | 20.81 mmol, 5.02 g | O=C1NC(CCCCCCC1=O)C(=O)OCC | C12H19NO4
reactant | Trimethylsilylmethylmagnesium chloride | C[Si](C)(C)C[Mg]Cl
solvent | ether | 50 mL | CCOCC | C4H10O
product | ethyl 3-(trimethylsilylmethyl)-3-hydroxy-2-oxo-1-azacyclodecane-10-carboxylate | C[Si](C)(C)CC1(C(NC(CCCCCC1)C(=O)OCC)=O)O | C16H31NO4Si
